US04219660
Preparation of 3,7-dimethyl-8-nitro-2,6-octadienoic acid methyl ester
To the lithium salt of methylsenecioate in THF at -70° was added an equimolar amount of 1-nitro-2-methyl-1,3-butadiene. Quenching in ice, followed by ether extraction yielded a crude product which was purified by Kugelrohr distillation and chromatography. The product had the appearance of a yellowish colored liquid.

reactant | lithium | [Li] | Li
reactant | methylsenecioate | COC(C=C(C)C)=O | C6H10O2
reactant | 1-nitro-2-methyl-1,3-butadiene | [N+](=O)([O-])C=C(C=C)C | C5H7NO2
solvent | THF | C1CCOC1 | C4H8O
product | 3,7-dimethyl-8-nitro-2,6-octadienoic acid methyl ester | COC(C=C(CCC=C(C[N+](=O)[O-])C)C)=O | C11H17NO4
